US08859573B2
4-{[2-(4-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-5-fluoro-2-[(phenylmethyl)oxy]pyrimidine
To a solution of phenylmethanol (100 μL, 0.965 mmol) in N,N-dimethylformamide (DMF) (8 mL) was added sodium hydride (232 mg, 5.79 mmol) 0° C., the 2-chloro-4-{[2-(4-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-5-fluoropyrimidine (432 mg, 0.965 mmol) was added at 0° C. after 10 min. The reaction mixture was stirred for 30 min, and poured into ice-water (100 mL), extracted with ethyl acetate (50 mL) twice. Combined organic parts were washed with water and brine, dried over sodium sulfate, filtered and concentrated. Purification via ISCO system afforded the title product (370 mg). LC-MS (ESI): m/z 519[M+H]+; 6.26 min (ret time).

reactant | phenylmethanol | 0.965 mmol, 100 μL | C1(=CC=CC=C1)CO | C7H8O
reactant | sodium hydride | 5.79 mmol, 232 mg | [H-].[Na+]
reactant | 2-chloro-4-{[2-(4-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-5-fluoropyrimidine | 0.965 mmol, 432 mg | ClC1=NC=C(C(=N1)OCCC1=CC=C(C=C1)OC1=CC(=C(C=C1)Cl)C(F)(F)F)F | C19H12Cl2F4N2O2
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 4-{[2-(4-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-5-fluoro-2-[(phenylmethyl)oxy]pyrimidine | 370 mg | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)CCOC1=NC(=NC=C1F)OCC1=CC=CC=C1)C(F)(F)F | C26H19ClF4N2O3
